Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
slurred speech, R hand clumsiness and difficulty walking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ yo M with a history of DM 2 who 
presents
with slurred speech, R hand clumbsiness and difficulty walking
since yesterday. 

He reports that he retired from being a ___ 1 week
ago, and he has been working on projects. Yesterday he was quite
tired, so drank a 4 hour energy drink. Shortly after at 4PM, he
went to mail a letter and noted it was very difficult to write
with his right hand, that it looked like "chicken scratch". He
then felt he was clumsy with his right hand. He soon thereafter
noticed it was more difficult for him to walk, "like he was
drunk." His son-in-law saw him this morning and noted his speech
to be slurred with R facial droop so he presented to the ___
ED. 

He has also reported HA x 3 months in the morning, that are mild
and resolve as soon as he eats something. He denies 
emesis/nausea
and no positional change with headaches. He has noted his vision
is becoming progressively blurrier and wonders if he needs to
change his glasses rx. 

On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies bowel or bladder incontinence or retention.  

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.  

 
Past Medical History:
DM 2, no known HTN
 
Social History:
___
Family History:
Half brother with seizures. He has 6 children
and many grandchildren who are healthy. 
 
Physical Exam:
Admission Exam:
Vitals:98.4 73 157/76 20 100% RA   
General: NAD  
HEENT: NCAT neck supple  
___: No cyanosis 
Pulmonary: Breathing comfortably
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. He does have dysarthria, but the content of his
speech is appropriate without aphasia. Intact repetition, and
intact verbal comprehension. Naming intact. No paraphasias.
Normal prosody. No evidence of hemineglect. No left-right
confusion. Able to follow both midline and appendicular 
commands.

 
Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. R V2 decreased to pp, otherwise V1 and 3
intact and symmetric. R NLFF with minimal weakness on 
activation.
Hearing intact to finger rub bilaterally. Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.  

Motor - Normal bulk and tone. +pronation when testing drift
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5
R finger flexors/extensors 5-    
Sensory - Patchy sensory exam, with decrease pp on L hand and R
arm (excluding hand). Decreased temperature sensation on R.
Vibration and proprioception intact. No extinction to DSS. 

DTRs:  
1+ biceps, otherwise difficult to elicit       
Plantar response flexor bilaterally.  

Coordination - +dysmetria on FTN and overshoot on mirroring on 
R.
No overshoot on eye movements; no rebound. No dysmetria on HTS. 

Gait - Normal initiation though slightly wide base and 
difficulty
with tandem (difficult with tandem he says is baseline)

___ Stroke Scale - Total [4] 

 1a. Level of Consciousness - 
 1b. LOC Questions - 
 1c. LOC Commands - 
 2. Best Gaze - 
 3. Visual Fields - 
 4. Facial Palsy - 1
 5a. Motor arm, left - 
 5b. Motor arm, right - 
 6a. Motor leg, left - 
 6b. Motor leg, right - 
 7. Limb Ataxia - 1
 8. Sensory - 1
 9. Language - 
 10. Dysarthria - 1
 11. Extinction and Neglect -

Discharge Exam:
Vitals: T-max 98, blood pressure 136/82-157/80, heart rate 
75-80,
respiratory rate ___, O2 saturation 95-100%
Neurological exam: Notable for right facial droop with decreased
activation, right pronator drift, right orbiting, right wrist
extensor and finger extensor 4.  Otherwise unremarkable.
 
Pertinent Results:
___ 06:33AM BLOOD WBC-6.5 RBC-4.20* Hgb-13.8 Hct-39.7* 
MCV-95 MCH-32.9* MCHC-34.8 RDW-11.3 RDWSD-38.6 Plt ___
___ 06:33AM BLOOD ___ PTT-30.1 ___
___ 06:33AM BLOOD Glucose-169* UreaN-16 Creat-1.0 Na-140 
K-4.0 Cl-101 HCO3-25 AnGap-18
___ 06:33AM BLOOD ALT-64* AST-47* LD(LDH)-184 CK(CPK)-217 
AlkPhos-61 TotBili-0.6
___ 06:33AM BLOOD Lipase-44
___ 06:33AM BLOOD GGT-45
___ 06:33AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:33AM BLOOD TotProt-6.6 Albumin-3.8 Globuln-2.8 
Cholest-167
___ 01:50PM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.9 Mg-2.1
___ 06:33AM BLOOD %HbA1c-6.6* eAG-143*
___ 06:33AM BLOOD Triglyc-67 HDL-77 CHOL/HD-2.2 LDLcalc-77
___ 06:33AM BLOOD TSH-3.3
___ 06:33AM BLOOD HBsAg-Negative HBsAb-Borderline 
HBcAb-Positive* HAV Ab-Positive IgM HBc-NEGATIVE IgM 
HAV-NEGATIVE
___ 06:33AM BLOOD CRP-0.3
___ 01:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:33AM BLOOD HCV Ab-Positive*
___ 06:33AM BLOOD SED RATE-6

CTA head/neck ___
1. No evidence of hemorrhage.  Please refer to subsequent MRI 
demonstrating left middle cerebral peduncle acute to early 
subacute infarction. 
2. No evidence of stenosis, occlusion, or aneurysm formation. 
3. Right first premolar dental ___. 
     
CXR ___
No acute cardiopulmonary abnormality.

MRI brain w/o contrast ___
1. Left middle cerebral peduncle acute to early subacute 
infarction, without hemorrhage. 
2. Diffuse parenchymal volume loss with commensurate prominence 
of the 
ventricles, sulci, and cisterns. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with diabetes who was admitted to the 
Neurology stroke service with slurred speech, clumsy right hand, 
and difficulty walking secondary to an acute ischemic stroke in 
the left cerebral peduncle. The etiology of the stroke is 
currently unknown; telemetry did not show atrial fibrillation. 
He was started on baby aspirin, and should continue this 
medication indefinitely or as directed by a neurologist.
His stroke risk factors include the following:
1) DM: A1c 6.6%
2) Mild atherosclerosis as seen on CTA

LDL was 77, so statin therapy was not initiated

Transitional issues:
- follow up positive HCV antibody at PCP's office
- outpatient OT
- outpatient TTE
- outpatient ___ of hearts monitor

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 77) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 250 mg PO DAILY 
2. ___ Aspirin (aspirin) Dose is Unknown mg oral DAILY:PRN 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
2.  MetFORMIN (Glucophage) 250 mg PO DAILY  
3.Outpatient Occupational Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute left cerebral peduncle ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with symptoms of slurred speech, right hand 
clumsiness, and difficulty walking resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Diabetes

We are changing your medications as follows:
Start aspirin 81 mg daily, take indefinitely or as directed by 
your neurologist
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

You have a prescription for occupational therapy to continue to 
work on your strength.

You will have an echocardiogram and a heart monitor as an 
outpatient. Please call ___ to schedule these tests.

You were also found to have positive antibodies for hepatitis C. 
You should discuss this with your primary care doctor in case 
you need further testing.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___